US08877782B2
6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-phenyl-nicotinamide
As described for example 15, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.32 mmol) was converted, using aniline instead of 3-methoxypropylamine, to the title compound (87 mg, 70%) which was obtained as an off white solid. MS: m/e=386.4 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.32 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-phenyl-nicotinamide | 87 mg, 70% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)NC2=CC=CC=C2)C=C1 | C23H19N3O3
